US04329495
3-Benzoylthio-2-(p-chlorobenzyl)propionic Acid
A solution of 2-(p-chlorobenzyl)acrylic acid (3.93 gm., 22 mmoles) and thiobenzoic acid (2.6 ml., 20 mmoles) in 40 ml. of methylene chloride was heated at reflux for 16 hours. The reaction mixture was evaporated to dryness and product crystallized from hexane (4.5 g.). Additional product was obtained by evaporation of the hexane mother liquor and chromatography of the residue (7.1 g.) on 200 g. of silica gel (230-400 mesh) with chloroform as eluant; 1.8 g., m.p. 111°-114° C.

reactant | 2-(p-chlorobenzyl)acrylic acid | 22 mmoles, 3.93 gm | ClC1=CC=C(CC(C(=O)O)=C)C=C1 | C10H9ClO2
reactant | thiobenzoic acid | 20 mmoles, 2.6 ml | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Benzoylthio-2-(p-chlorobenzyl)propionic Acid | C(C1=CC=CC=C1)(=O)SCC(C(=O)O)CC1=CC=C(C=C1)Cl | C17H15ClO3S
